US06936602B1
To a solution of methyl 1-(3-methoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (376 mg) in a mixture of THF-methanol (5-10 ml) was added 1N sodium hydroxide solution (3.0 ml) at room temperature, and the mixture was stirred at 50° C. for 24 hours. After concentration under reduced pressure, 1N hydrochloric acid was added to pH 3-4, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried with magnesium sulfate. After concentration under reduced pressure, the resulting crystals were collected by filtration. The crystals were washed with diisopropyl ether and hexane to give 1-(3-methoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (346 mg) as yellow crystals.

reactant | methyl 1-(3-methoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 376 mg | COCCCN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C27H35NO5
reactant | sodium hydroxide | 1N, 3.0 ml | [OH-].[Na+]
solvent | THF methanol | 5-10 ml | C1CCOC1.CO
product | 1-(3-methoxypropyl)-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 346 mg | COCCCN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)O | C26H33NO5
